US04127720
A. 7-Ethyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carbonitrile
A stirred mixture of (±)-7-ethyl-6,7-dihydro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carbonitrile (3.5 g.) and 10% palladium on carbon (1.5 g.) in p-cymene (50 ml.) was refluxed for 18 hours. The mixture was diluted with methylene chloride and filtered to remove the catalyst. The solvents were removed on a rotary evaporator and the residue crystallized from ethanol to give 1.6 g. (46% yield) of the title compound, m.p. 208°-211°. Successive recrystallizations from toluene and ethanol provided the analytical sample, m.p. 218°-219°.

reactant | (±)-7-ethyl-6,7-dihydro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carbonitrile | 3.5 g | C(C)C1CN2C(C3=CC=CC=C13)=NC=C(C2=O)C#N | C15H13N3O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | p-cymene | 50 ml | CC=1C=CC(=CC1)C(C)C | C10H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Ethyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carbonitrile | 46% yield | C(C)C1=CN2C(C3=CC=CC=C13)=NC=C(C2=O)C#N | C15H11N3O
